US07795426B2
A suspension of cyclohexanecarboxaldehyde bisulfite adduct (5.0 mmol) and Et3N (5.5 mmol) in dichloroethane (20 mL) was stirred at room temperature for 15 min. The suspension was treated with N-methylbenzylamine (5.5 mmol) and was stirred for 45 min. NaBH(OAc)3 (7.0 mmol) was added portion-wise over approximately 30 min. After 16 h, the reaction mixture was diluted with EtOAc (80 mL), and was washed with 1 N NaOH (25 mL) followed by brine (25 mL). The organic layer was dried (MgSO4) and concentrated to yield benzyl-cyclohexylmethyl-methyl-amine as an oil. The crude material was purified by the General Purification Method as described above.

reactant | cyclohexanecarboxaldehyde bisulfite | 5.0 mmol | S(O)(O)=O.C1(CCCCC1)C=O
reactant | Et3N | 5.5 mmol | CCN(CC)CC | C6H15N
reactant | N-methylbenzylamine | 5.5 mmol | CNCC1=CC=CC=C1 | C8H11N
reactant | NaBH(OAc)3 | 7.0 mmol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 20 mL | ClC(C)Cl | C2H4Cl2
solvent | EtOAc | 80 mL | CCOC(=O)C | C4H8O2
product | benzyl-cyclohexylmethyl-methyl-amine | C(C1=CC=CC=C1)N(C)CC1CCCCC1 | C15H23N
